US08304419B2
To a solution of N-({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (148 mg, 0.246 mmol) in DCM (5 ml) was added TFA (3.0 ml) and the reaction mixture was stirred at rt for 2 hours. The reaction mixture was neutralized with saturated sodium bicarbonate, diluted with EtOAc, and the organic layer was separated. The solvent was evaporated and the crude material was purified via silica gel chromatography to give N-({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (94 mg, 0.200 mmol, 81% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.69 (s, 1H), 7.24-7.37 (m, 2H), 6.90 (s, 1H), 6.56-6.66 (m, 2H), 4.62 (s, 2H), 2.53 (t, 2H), 1.51 (qd, 2H), 1.20-1.35 (m, 2H), 0.88 (t, 3H). LC-MS (ES+) m/z 469.93, [M+H].

reactant | N-({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.246 mmol, 148 mg | C(CCC)C=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C27H33Cl3FN3O3Si
reactant | TFA | 3.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.200 mmol, 94 mg, 81% yield | C(CCC)C=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C21H19Cl3FN3O2
